US08957070B2
N-Methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]pyrrolidine-1-carboxamide
To a solution of N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride (133 mg) and triethylamine (105 μL) in tetrahydrofuran (5 mL) was added pyrrolidine-1-carbonylchloride (100 mg). The reaction mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give yellow crystals (8.2 mg, yield 5%). melting point 182° C.

reactant | N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride | 133 mg | Cl.CNC=1C=CC=C2C=C(NC12)C=1SC=CN1
reactant | triethylamine | 105 μL | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine-1-carbonylchloride | 100 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-Methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]pyrrolidine-1-carboxamide | 8.2 mg, yield 5% | CN(C(=O)N1CCCC1)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C17H18N4OS
